US08211892B2
0.3 g of the tert-Butyl ester of 4-(4-hydroxyphenyl)-3,4-dihydro-2H-quinoxaline-1-carboxylic acid is placed in 4.6 ml of dimethylformamide under nitrogen. 0.167 g of 2-(chloromethyl)pyrimidine and 0.508 g of potassium carbonate are added. The reaction medium is heated at 100° C. for 4 h. 0.254 g of potassium carbonate is added and heating is maintained for 1 h 30. After hydrolysis, the reaction medium is extracted with ethyl acetate until the aqueous phase has been completely extracted. The organic phases are combined, washed with a saturated aqueous sodium chloride solution, dried over magnesium sulphate and concentrated to dryness. The crude product obtained is chromatographed on silica gel, elution being carried out with a gradient of methanol in dichloromethane varying from 0% to 9/1. 0.095 g of 1-[4-(pyrimidin-2-ylmethoxy)phenyl]-1,2,3,4-tetrahydroquinoxaline is obtained.

reactant | 4-(4-hydroxyphenyl)-3,4-dihydro-2H-quinoxaline-1-carboxylic acid | OC1=CC=C(C=C1)N1CCN(C2=CC=CC=C12)C(=O)O | C15H14N2O3
reactant | 2-(chloromethyl)pyrimidine | 0.167 g | ClCC1=NC=CC=N1 | C5H5ClN2
reactant | potassium carbonate | 0.508 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 0.254 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 4.6 ml | CN(C=O)C | C3H7NO
product | 1-[4-(pyrimidin-2-ylmethoxy)phenyl]-1,2,3,4-tetrahydroquinoxaline | 0.095 g | N1=C(N=CC=C1)COC1=CC=C(C=C1)N1CCNC2=CC=CC=C12 | C19H18N4O
